US06218389B1
S-methyl-D-penicillamine
A suspension of D-Penicillamine (10.0 g, 67.01 mmol) in 0.4N solution of barium hydroxide octahydrate (330 mL, 67.01 mmol) is chilled on an ice water bath. Dimethyl sulfate (6.6 mL, 70.36 mmol, 1.05 equiv) is added dropwise over a period of 30 minutes. The suspension stirred for 18 hours at room temperature. A solution of 1 N sulfuric acid is added to the solution (pH˜2) to precipitate out the barium sulfate. The supernatent is decanted and the precipitate is washed several times with water. The pH of the supernatent is adjusted to 6 with concentrated ammonium hydroxide and the water is evaporated off to give a pure white solid (10.9 g, 100% yield).

reactant | D-Penicillamine | 67.01 mmol, 10.0 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | barium hydroxide octahydrate | 67.01 mmol, 330 mL | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | Dimethyl sulfate | 70.36 mmol, 6.6 mL, 1.05 equiv | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
product | S-methyl-D-penicillamine | 10.9 g, 100% yield | CSC([C@@H](N)C(=O)O)(C)C | C6H13NO2S
